US07229999B2
5-(4-Chloro-phenyl)-N-((1SR,2RS)-2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 102, using 5-bromo-6-hydroxy-nicotinic acid methyl ester, 2-methoxyethanol, (4-chloro-phenyl)-boronic acid and trans-2-aminomethyl-1-cyclohexanol hydrochloride as starting materials to yield racemic 5-(4-chloro-phenyl)-N-((1SR,2RS)-2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide. MS (ISP) 419.1 (M+H)+.

reactant | 5-bromo-6-hydroxy-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)O)=O | C7H6BrNO3
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | trans-2-aminomethyl-1-cyclohexanol hydrochloride | Cl.NC[C@H]1[C@@H](CCCC1)O
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | racemic 5-(4-chloro-phenyl)-N-((1SR,2RS)-2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2C(CCCC2)O)C1)OCCOC | C22H27ClN2O4
